### PR TITLE
feat: Nat.add_div_of_dvd_add_add_one

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds a consequence of `Nat.add_div` using a divisibility hypothesis.

### CODE REVIEW

File: src/Init/Data/Nat/Div/Lemmas.lean [hunk 1]
```diff
@@ -128,4 +153,30 @@ protected theorem add_div {a b c : Nat} (h : 0 < c) :
...
+/-- If `(a + b) % c = c - 1`, then `a % c + b % c < c`, because `a % c + b % c` can not reach `2*c - 1`. -/
+theorem mod_add_mod_lt_of_add_mod_eq_sub_one (w : 0 < c) (h : (a + b) % c = c - 1) : a % c + b % c < c := by
+  have := mod_add_mod_lt a b w
+  rw [mod_add_mod_eq, h] at this
+  split at this
+  · assumption
+  · omega
+
+/-- If `c` divides `a + b + 1`, then `(a + b) % c = c - 1`. -/
+theorem add_mod_eq_sub_one_of_dvd_add_add_one (h : c ∣ a + b + 1) : (a + b) % c = c - 1 := by
```
Comment (TwoFX) [inline src/Init/Data/Nat/Div/Lemmas.lean:165]: I think this one wants to be generalized to something like
```lean
theorem Nat.mod_eq_sub' {a b c : Nat} (h₁ : 0 < c) (h : c ≤ b) : a % b = b - c ↔ b ∣ a + c := by
  rw [Nat.mod_eq_iff]
  refine ⟨?_, ?_⟩
  · rintro (⟨rfl, rfl⟩|⟨hlt, ⟨k, hk⟩⟩)
    · simp; omega
    · refine ⟨k + 1, ?_⟩
      rw [← Nat.add_sub_assoc h] at hk
      rw [Nat.mul_succ, eq_comm]
      apply Nat.eq_add_of_sub_eq (by omega) hk.symm
  · rintro ⟨k, hk⟩
    obtain (rfl|hb) := Nat.eq_zero_or_pos b
    · obtain rfl : c = 0 := by omega
      refine Or.inl ⟨rfl, by simpa using hk⟩
    · have : k ≠ 0 := by rintro rfl; omega
      refine Or.inr ⟨by omega, ⟨k - 1, ?_⟩⟩
      rw [← Nat.add_sub_assoc h, eq_comm]
      apply Nat.sub_eq_of_eq_add
      rw [mul_sub_one, Nat.sub_add_cancel (Nat.le_mul_of_pos_right _ (by omega)), hk]
```
